US05849921
1-(4-Methyl-5-oxazolyl)-1-(3-methylphenyl)methanol
n-Butyllithium (2.5 solution in hexanes, 3.9 ml) was added dropwise to a stirred solution of 3-bromotoluene (1.1 ml) in dry tetrahydrofuran (20 ml) at -70° C. under an atmosphere of dry nitrogen. After 20 minutes, 4-methyl-5-oxazolecarbaldehyde (1.15 g) in tetrahydrofuran (10 ml) was added. After 1 hour the mixture was allowed to warm to room temperature and was then heated under reflux for 1 hour. The cooled solution was poured into saturated aqueous sodium hydrogen carbonate. Extraction with ethyl acetate and flash chromatography then gave the title compound. M.p. 76.5°-77.5° C.

reactant | n-Butyllithium | 3.9 ml | C(CCC)[Li]
reactant | 3-bromotoluene | 1.1 ml | BrC=1C=C(C=CC1)C | C7H7Br
reactant | 4-methyl-5-oxazolecarbaldehyde | 1.15 g | CC=1N=COC1C=O | C5H5NO2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(4-Methyl-5-oxazolyl)-1-(3-methylphenyl)methanol | CC=1N=COC1C(O)C1=CC(=CC=C1)C | C12H13NO2
